US07494721B2
10 parts of 1,5-bis(4-bromophenoxy)anthraquinone, 8 parts of potassium hydroxide, and 9 parts of 4-toluenethiol were added to 100 parts of DMF, and the mixture was stirred under heat at 110° C. for 3 hours. The precipitated solid after cooling was filtered, washed, and dried, to give 6.5 parts of an intermediate (1,5-bis(4-methylphenylthio)anthraquinone).

reactant | 1,5-bis(4-bromophenoxy)anthraquinone | BrC1=CC=C(OC2=CC=CC=3C(C4=C(C=CC=C4C(C23)=O)OC2=CC=C(C=C2)Br)=O)C=C1 | C26H14Br2O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-toluenethiol | C1(=CC=C(C=C1)S)C | C7H8S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,5-bis(4-methylphenylthio)anthraquinone | CC1=CC=C(C=C1)SC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)SC1=CC=C(C=C1)C)=O | C28H20O2S2
